US07452901B2
Butyl lithium (1.6 M in hexanes, 1 mL) was added to an equal volume of THF at −20° C. A solution of diethyl methylphosphonate (220 mg, 1.45 mmol) in THF (1 mL) was then added dropwise and the mixture was stirred for 30 min. After cooling to −60° C., the solution was transferred via a cannula to a vial containing copper (I) iodide (276 mg, 1.45 mmol), and the resulting mixture was stirred for 1 h at −30° C. A solution of 6-(4-bromo-3-methyl-but-2-enyl)-7-hydroxy-5-methoxy-4-methyl-3H-isobenzofuran-1-one (50 mg, 0.15 mmol) in THF (1 mL) was added, and the mixture was allowed to warm to 0° C. for 2 h before saturated aqueous ammonium chloride was added. The reaction mixture was acidified with 2 N HCl and extracted with ethyl acetate. The ethyl acetate extract was concentrated and the residue was chromatographed on silica gel (40% to 100% ethyl acetate/hexanes), affording [5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-pent-3-enyl]-phosphonic acid diethyl ester as an oil (27 mg, contaminated with the starting diethyl methylphosphonate); 1H NMR (300 MHz, CDCl3) δ 1.32 (m, 6H), 1.8-1.9 (m, 5H), 2.18 (s, 3H), 2.25 (m, 2H), 3.42 (d, J=7.2, 2H), 3.78 (s, 3H), 4.15 (m, 4H), 5.21 (s, 2H), 5.24 (t, J=7.2 Hz, 1H), 7.65 (s, 1H).

reactant | Butyl lithium | 1.6 M, 1 mL | C(CCC)[Li]
reactant | diethyl methylphosphonate | 1.45 mmol, 220 mg | CP(OCC)(OCC)=O | C5H13O3P
reactant | 6-(4-bromo-3-methyl-but-2-enyl)-7-hydroxy-5-methoxy-4-methyl-3H-isobenzofuran-1-one | 0.15 mmol, 50 mg | BrCC(=CCC1=C(C(=C2COC(C2=C1O)=O)C)OC)C | C15H17BrO4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 1.45 mmol, 276 mg | [Cu]I
product | [5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-pent-3-enyl]-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C20H29O7P
